US04536402
(E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1oxide
A solution of 2.246 gm (0.0105 mol) of sodium metaperiodate in 10 ml of water was added to a solution of 2.53 gm (0.01 mol) of (E)-2-[(amino)phenylmethylene]-benzo[b]-thiophen-3(2H)-one in 150 ml of methanol, and the mixture was stirred at room temperature for 15 hours. The sodium iodate precipitated thereby was removed by filtration, and the filtrate was diluted with 300 ml of water and extracted exhaustively with dichloromethane. The combined extracts were washed once with water, dried over sodium sulfate and concentrated by evaporation in vacuo. The residue was recrystallized from ethanol/ethyl acetate using activated charcoal, and yielded 2.28 gm (85% of theory) of pale yellow crystals, m.p. 246°-247° C. (decomposition).

reactant | sodium metaperiodate | 0.0105 mol, 2.246 gm | I(=O)(=O)(=O)[O-].[Na+]
reactant | (E)-2-[(amino)phenylmethylene]-benzo[b]-thiophen-3(2H)-one | 0.01 mol, 2.53 gm | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NOS
solvent | water | 10 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | (E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1oxide | N\C(=C\1/C(C2=C(S1=O)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NO2S
